US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(oxetan-3-ylmethyl)quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1-(oxetan-3-yl)methanamine. MS obsd. (ESI+) [(M+H)+] 424, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.93 (d, 1 H), 7.89-7.87 (t, 1 H), 7.69-7.65 (m, 2 H), 7.50-7.46 (t, 1 H), 7.31 (d, 1 H), 7.24-7.21 (m, 1 H), 6.79-6.76 (t, 1 H), 6.04 (s, 1 H), 5.08 (s, 2 H), 4.74-4.70 (m, 2 H), 4.37 (t, 4 H), 3.61 (t, 4 H), 3.28 (m, 1 H), 2.35 (s, 3 H)

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1-(oxetan-3-yl)methanamine | O1CC(C1)CN | C4H9NO
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(oxetan-3-ylmethyl)quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC2COC2)C)=O | C23H25N3O3S
